US05399568
a. 1-((9S,10S)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-methoxy-3-pyridylmethyl)piperidine
To a solution of 1-((9S,10S)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-fluoro-3-pyridylmethyl)piperidine, (2.60 g, 5.8 mmol), prepared as described in Example 55a, in methanol (25 mL) was added potassium fluoride (4.15 g, 71.4 mmol) which caused a slight exotherm (~35° C.). Sodium methoxide solution in methanol (4.4 mL of a 25 wt % solution) was added which caused another exotherm (~50° C.) and thinned the suspension. This suspension was heated to reflux for 6 h. Additional potassium fluoride (4.15 g, 71.4 mmol) was added and the suspension was refluxed for 18 h. Additional sodium methoxide solution (1.0 mL) was added and the suspension was refluxed for 5 h. The mixture was cooled to room temperature, partitioned between basic brine and dichloromethane. The organic extract was separated and the aqueous was extracted with dichloromethane (2X). The dichloromethane extracts were combined, dried over sodium sulfate, filtered and concentrated on a rotary evaporator. The crude foam was purified by flash chromatography on silica (eluant: 15% acetone/hexanes) to give the title compound as a white solid (1.82 g, 3.95 mmol, 68%).

reactant | 1-((9S,10S)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-fluoro-3-pyridylmethyl)piperidine | 5.8 mmol, 2.60 g | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)C(=O)N3CCC(CC3)CC=3C(=NC=CC3)F | C27H24ClFN2O
reactant | potassium fluoride | 71.4 mmol, 4.15 g | [F-].[K+]
reactant | Sodium methoxide | C[O-].[Na+]
reactant | potassium fluoride | 71.4 mmol, 4.15 g | [F-].[K+]
reactant | sodium methoxide | 1.0 mL | C[O-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 1-((9S,10S)-2-Chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-(2-methoxy-3-pyridylmethyl)piperidine | 3.95 mmol, 1.82 g, 68% | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)C(=O)N3CCC(CC3)CC=3C(=NC=CC3)OC | C28H27ClN2O2
